US04474793
4-Allylthioazetidin-2-one
A solution of 42.9 g of sodium hydroxide in 500 ml of water was made up under nitrogen and cooled to room temperature, 108 ml of allyl mercaptan were added and the mixture stirred under nitrogen for 30 minutes. 138.7 g of 4-acetoxyazetidin-2-one were added to the mixture over 10 minutes under nitrogen and the reaction mixture was stirred overnight. The reaction was checked for completion by T.L.C. (hexane-ethyl acetate) and extracted into dichloromethane (6×250 ml). The organic layer was washed with water (2×250 ml), dried over magnesium sulphate and evaporated in vacuo to dryness. Purification, over silica gel and elution with hexane-ethyl acetate afforded the above product as a yellow oil. (112.1 g, 73% of the theoretical yield).

reactant | sodium hydroxide | 42.9 g | [OH-].[Na+]
reactant | allyl mercaptan | 108 ml | C(C=C)S | C3H6S
reactant | 4-acetoxyazetidin-2-one | 138.7 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
solvent | water | 500 ml | O | H2O
product | 4-Allylthioazetidin-2-one | C(C=C)SC1CC(N1)=O | C6H9NOS
